US06982348B2
2) ethyl (2RS,3RS)-2-(4-tert-butoxybenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoate
To a solution of zinc chloride (5.79 g, 42.5 mmol) in diethyl ether (150 ml) was added sodium borohydride (3.22 g, 85.0 mmol), and the mixture was stirred at room temperature for 30 min. Insoluble material was filtered off, and to the filtrate was added a solution of ethyl 2-(4-tert-butoxybenzyl)-3-(3-chlorophenyl)-3-oxopropanoate (8.26 g, 21.2 mmol) in diethyl ether (100 ml) at 0° C. The mixture was stirred for 30 min. and 1N hydrochloric acid was added to stop the reaction. Water (200 ml) was further added and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-2:1) to give the objective substance (7.12 g, 86%).

reactant | sodium borohydride | 85.0 mmol, 3.22 g | [BH4-].[Na+]
reactant | ethyl 2-(4-tert-butoxybenzyl)-3-(3-chlorophenyl)-3-oxopropanoate | 21.2 mmol, 8.26 g | C(C)(C)(C)OC1=CC=C(CC(C(=O)OCC)C(=O)C2=CC(=CC=C2)Cl)C=C1 | C22H25ClO4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Water | 200 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 42.5 mmol, 5.79 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-2-(4-tert-butoxybenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoate | C(C)(C)(C)OC1=CC=C(CC(C(=O)OCC)C(O)C2=CC(=CC=C2)Cl)C=C1 | C22H27ClO4
